US04381301
10.4 ml of chloroacetyl chloride are added dropwise at room temperature to a suspension of 18.8 g of 9,10-dihydro-4H-thieno[3,4-b][1,5]benzodiazepin-10-one in 500 ml of dioxane, whereupon a clear solution is formed. The solution is left to stand for 3 hours and is then concentrated to dryness; the obtained residue is taken up in toluene; the toluene mixture is washed with sodium bicarbonate solution and then with water, and the toluene solution is dried over sodium sulfate. Concentration of the thus-dried solution yields 4-chloroacetyl-9,10-dihydro-4H-thieno[3,4-b][1,5]benzodiazepin-10-one (m. 220° C.).

reactant | chloroacetyl chloride | 10.4 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | 9,10-dihydro-4H-thieno[3,4-b][1,5]benzodiazepin-10-one | 18.8 g | C=1SC=C2NC3=C(NC(C21)=O)C=CC=C3 | C11H8N2OS
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | 4-chloroacetyl-9,10-dihydro-4H-thieno[3,4-b][1,5]benzodiazepin-10-one | ClCC(=O)N1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2 | C13H9ClN2O2S
